US04272437
A solution of 1-t-butyldimethylsilyl-3-propionyl-4- tritylthio-2-azetidinone (26 g, 50 mmol) and sodium borohydride (7.6 g, 200 mmol) in THF (400 ml) was stirred at room temperature for 18 h. It was poured onto ice-HCl (1 N) (pH 6) and extracted with ether. The acidic phase was extracted several times with ether and the combined ether solution was washed with brine, dried (NA2SO4) and evaporated to give an amorphous solid, 25.0 g. This crude product was chromatographed on SiO2 (ACT. 1, 400 g) and eluted first with CH2Cl2 to give 10.8 g of 1-t-butyldimethylsilyl-4-tritylthio-2-azetidinone. Elution with 20% ether in CH2Cl2 gave 10.3 g of the title compound as a mixture of two isomeric trans alcohols. This was separated by hplc (Water Associates, System 500), and using 10% EtOAc in CH2Cl2 as eluent. Isomer C, white solid, 3.8 g; mp (pet. ether) 134°-36° C. 1Hmr (CDCl3) δ:7.1-7.8 (15H, m, STr), 4.35 (H, d), 3.1 (H, dd), 2.5 (H, m), 0.7-1.7 (5H, m), 0.97 (9H, s) and 0.25 ppm (6H, s). Anal. calcd for C31H39NO2SSi: C 71.91, H 7.59, N 2.71; found: C 71.51, H 7.60, N 2.96. Isomer B, white solid, 5.4 g; mp (pentane-pet. ether) 97°-99° C. 1Hmr (CDCl3) δ:7.1-7.8 (15H, m, STr), 4.15 (H, d), 3.4 (H, dd), 3.2 (H, m), 0.7-1.7 (5H, m), 0.85 (9H, s) and 0.1 ppm (6H, s). 97°-99° C. 1Hmr (CDCl3) δ:7.1-7.8 (15H, m, STr), 4.15 (H, d), 3.4 (H, dd), 3.2 (H, m), 0.7-1.7 (5H, m), 0.85 (9H, s) and 0.1 ppm (6H, s). Total yield of these two alcohols (based on recovered starting material was 67.5%.

reactant | 1-t-butyldimethylsilyl-3-propionyl-4- tritylthio-2-azetidinone | 50 mmol, 26 g | [Si](C)(C)(C(C)(C)C)N1C(C(C1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC)=O)=O | C31H37NO2SSi
reactant | sodium borohydride | 200 mmol, 7.6 g | [BH4-].[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 1-t-butyldimethylsilyl-4-tritylthio-2-azetidinone | 10.8 g | [Si](C)(C)(C(C)(C)C)N1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H33NOSSi
